US07842713B2
Preparation of Intermediate 395d: 7-Methoxy-2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylic acid
To a solution of methyl 7-methoxy-2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylate (40 g, 0.17 mol) in MeOH (200 mL) was added NaOH (34 g, 0.85 mol) in one portion. The mixture was stirred at room temperature for 24 h. TLC (EtOAc/petroleum ether=1/1) showed the reaction was complete. Then MeOH was removed under vacuum. The residue was dissolved in water (100 mL), and the solution was acidified with conc. HCl. The solid was filtered and the filter cake was dried in vacuo to give the title compound (25 g, 68%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.62 (s, 1H), 7.54 (s, 1H), 3.94 (s, 3H), 3.00 (s, 2H), 1.50 (s, 6H).

reactant | methyl 7-methoxy-2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylate | 0.17 mol, 40 g | COC1=CC(=CC=2CC(OC21)(C)C)C(=O)OC | C13H16O4
reactant | NaOH | 0.85 mol, 34 g | [OH-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | 7-Methoxy-2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylic acid | 25 g, 68% | COC1=CC(=CC=2CC(OC21)(C)C)C(=O)O | C12H14O4
